US03996276
A solution of 2.50 g of 1-oxa-4,7,10-triazacyclododecane and 2.35 g of hexamethylphosphorous triamide in 25 ml of toluene is refluxed for forty hours. It is then concentrated to dryness in a rotary evaporator, to give 2.97 g (100%) of 10-oxa-1,4,7-triaza-13-phosphatricyclo[5.5.1.04,13 ]tridecane as a brittle, white solid. Sublimation at 80° C (0.007 mm) gives 2.08 g of white crystals having a melting point of 68°-70° C.

reactant | 1-oxa-4,7,10-triazacyclododecane | 2.50 g | O1CCNCCNCCNCC1 | C8H19N3O
reactant | hexamethylphosphorous triamide | 2.35 g | CN(P(N(C)C)N(C)C)C | C6H18N3P
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 10-oxa-1,4,7-triaza-13-phosphatricyclo[5.5.1.04,13 ]tridecane | 2.97 g, 100% | N12CCN3CCN(CCOCC1)P23 | C8H16N3OP
